* Z:\mnt\design.r\spice\examples\3529.asc
L1 IN N001 4.7µ Rpar=5K
V1 IN 0 3.6
C1 OUT 0 10µ Rser=1m
Rload OUT 0 10
XU1 OUT N001 IN 0 NC_01 0 NC_02 IN LTC3529
.tran 750u startup
.lib LTC3529.sub
.backanno
.end
